US06960575B2
DL-N-tert-Butoxycarbonylphenylglycine (Reference compound No. 52-1)
Triethylamine (14.4 ml) and water (50 ml) are added to a suspension of DL-phenylglycine (15.1 g) in tetrahydrofuran (100 ml). Di-tert-butyl dicarbonate (22.9 g) is added to the mixture, and the whole is stirred overnight. Diethyl ether is added to the reaction mixture, and the whole is extracted with a saturated aqueous sodium hydrogencarbonate solution. A 10% aqueous citric acid solution is added to the extract to acidify the system, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled reference compound (25 g).

reactant | Triethylamine | 14.4 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
reactant | DL-phenylglycine | 15.1 g | C1=CC=C(C=C1)C(C(=O)O)N | C8H9NO2
reactant | Di-tert-butyl dicarbonate | 22.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | N-tert-Butoxycarbonylphenylglycine | 25 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=CC=C1 | C13H17NO4
